US07838675B2
To a solution of (2R,5S)-2,5-dimethylpiperazine (2 g) in dioxane (100 ml) was added sulfamide (2.5 g) and the reaction mixture was then heated at reflux in dioxane (100 ml) for 72 h. The reaction mixture was partitioned between EtOAc (150 ml) and H2O (150 ml) and the aqueous re-extracted with EtOAc (2×150 ml). Organics were collected, dried and reduced in vacuo to give (2S,5R)-2,5-dimethylpiperazine-1-sulfonamide as a white solid (1.2 g). A mixture of (2S,5R)-2,5-dimethylpiperazine-1-sulfonamide (0.38 g), tris(dibenzylideneacetone)dipalladium (0) (50 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (50 mg), cesium carbonate (0.43 g) and, 4-Chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-methoxypyrimidine (the product from example 35 step i), 0.4 g) in dioxane (20 mL) was heated at reflux in a microwave at 100° C., 300 W, open vessel with cooling for 4 h. The reaction mixture was then reduced in vacuo and the residue partitioned between DCM (150 ml) and H2O (150 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×150 ml). Organics were combined, dried (MgSO4) and reduced in vacuo to give a yellow solid. This residue was then purified by prep HPLC to give the title compound as a white solid. Yield: 9 mg

reactant | (2R,5S)-2,5-dimethylpiperazine | 2 g | C[C@H]1NC[C@@H](NC1)C | C6H14N2
reactant | sulfamide | 2.5 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (2S,5R)-2,5-dimethylpiperazine-1-sulfonamide | 1.2 g | C[C@@H]1N(C[C@H](NC1)C)S(=O)(=O)N | C6H15N3O2S
